US08557872B2
Step 4: Synthesis of 2-butoxy-4-trifluoromethyl-benzaldehyde
2-Butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide (825 mg) was reacted with 1 M LAH (31 ml) at −50° C. for 1 hour as described above to yield title compound (423 mg) after column chromatography (Hex/EtOAc=20/1).

reactant | 2-Butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | 825 mg | C(CCC)OC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C14H18F3NO3
reactant | LAH | 1 M, 31 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-butoxy-4-trifluoromethyl-benzaldehyde | 423 mg | C(CCC)OC1=C(C=O)C=CC(=C1)C(F)(F)F | C12H13F3O2
